US08476385B2
The method for the Preparation of CF3—CFH—O—(CF2)5—CH2—OC(O)CH═CH2, Part B was followed except 50 grams (0.17 mole) of CF3—CFH—O—(CF2)3—CH2—OH was used instead of CF3—CFH—O—(CF2)5—CH2—OH. The reaction with acryloyl chloride (18.2 grams, 0.2 mole) was carried out in glyme (75 grams) in the presence of diisopropylethylamine (26 grams, 0.2 mole), and the reaction mixture was heated at 45° C. for 30 minutes. After this time, water (100 grams) and a hydrofluoroether (50 grams) obtained from 3M Company, St. Paul, Minn. under the trade designation “FLOURINERT 77” was added. The lower phase was separated, dried with magnesium sulfate, filtered, and distilled at 42° C. at 0.1 mmHg (13 Pa) to provide 18.5 grams CF3—CFH—O—(CF2)3—CH2—OC(O)CH═CH2.

reactant | CF3—CFH—O—(CF2)5—CH2—OC(O)CH═CH2 | C(F)(F)(F)C(F)OC(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)COC(=O)C=C | C11H6F14O3
reactant | CF3—CFH—O—(CF2)3—CH2—OH | 0.17 mole, 50 grams | C(F)(F)(F)C(F)OC(F)(F)C(F)(F)C(F)(F)CO | C6H4F10O2
reactant | acryloyl chloride | 0.2 mole, 18.2 grams | C(C=C)(=O)Cl | C3H3ClO
reactant | diisopropylethylamine | 0.2 mole, 26 grams | C(C)(C)N(CC)C(C)C | C8H19N
solvent | glyme | 75 grams | C(OC)COC | C4H10O2
solvent | water | 100 grams | O | H2O
product | CF3—CFH—O—(CF2)3—CH2—OC(O)CH═CH2 | 18.5 grams | C(F)(F)(F)C(F)OC(F)(F)C(F)(F)C(F)(F)COC(=O)C=C | C9H6F10O3
